US07514566B2
(S,E)-4-(4-(Trifluoromethyl)phenyl)but-3-en-2-ol (11.2 g, 51.8 mmol) was taken up in 240 mL of DMF. N-Boc glycine (22.7 g, 130 mmol), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (29.8 g, 155 mmol), 1H-benzo[d][1,2,3]triazol-1-ol (21.0 g, 155 mmol), and Hunig's base (27.1 mL, 155 mmol) were added. After 12 hours, the solvent was removed under reduced pressure. The residue was taken up in 500 mL of EtOAc and transferred to a separatory funnel. The mixture was washed with 200 mL of 10% aqueous HCl, 200 mL of aqueous NaHCO3, and 200 mL of brine, and then dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (2.5% to 15% EtOAc/hexanes) afforded (S,E)-4-(4-(trifluoromethyl)phenyl)but-3-en-2-yl 2-(tert-butoxycarbonyl)acetate (16.5 g, 85.3% yield) as a thick oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.59-7.52 (m, 2H) 7.47 (d, J=8.22 Hz, 2H) 6.64 (d, J=15.85 Hz, 1H) 6.26 (dd, J=15.94, 6.55 Hz, 1H) 5.60 (dq, J=6.55, 6.29 Hz, 1H) 5.00 (s, 1H) 3.85-4.00 (m, 2H), 1.46-1.43 (m, 12H).

reactant | (S,E)-4-(4-(Trifluoromethyl)phenyl)but-3-en-2-ol | 51.8 mmol, 11.2 g | FC(C1=CC=C(C=C1)/C=C/[C@H](C)O)(F)F | C11H11F3O
reactant | N-Boc glycine | 130 mmol, 22.7 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 155 mmol, 29.8 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 155 mmol, 21.0 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | Hunig's base | 155 mmol, 27.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 240 mL | CN(C)C=O | C3H7NO
product | (S,E)-4-(4-(trifluoromethyl)phenyl)but-3-en-2-yl 2-(tert-butoxycarbonyl)acetate | 16.5 g, 85.3% yield | C(C)(C)(C)OC(=O)CC(=O)O[C@@H](C)\C=C\C1=CC=C(C=C1)C(F)(F)F | C18H21F3O4
